US07601736B2
8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on (200 mg, 1.012 mmol) was dissolved in 5 mL of ethanol and then added with 4-fluoroaniline (224.9 mg, 2.024 mmol) and stirred at 80° C. overnight. The mixture was concentrated under reduced pressure. A silica gel column chromatography (20% EtOAc/Hexane) was performed on the resulting residue and 250 mg (90%) of 8-(4-fluoro-phenylamino)-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on was obtained in pale yellow solid.

reactant | 8-chloro-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 1.012 mmol, 200 mg | ClC=1N=C(C=C2C1C(OCC2)=O)C | C9H8ClNO2
reactant | 4-fluoroaniline | 2.024 mmol, 224.9 mg | FC1=CC=C(N)C=C1 | C6H6FN
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 8-(4-fluoro-phenylamino)-6-methyl-3,4-dihydro-pyrano[3,4-c]pyridine-1-on | 250 mg, 90% | FC1=CC=C(C=C1)NC=1N=C(C=C2C1C(OCC2)=O)C | C15H13FN2O2
